US09447106B2
Step 2: 7-(2-(Methylamino)phenyl)-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
To a solution of N-(2-(3-cyano-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl)phenyl)-2,2,2-trifluoroacetamide (50 mg, 0.1 mmol) in 5 mL of acetone was added KOH (11.2 mg, 0.2 mmol) and CH3I (0.5 mL). The reaction mixture was stirred at It for 15 hr, then concentrated to remove acetone. The residue was partitioned between 20 mL of water and 20 mL of EA. The organic layer was concentrated and purified by pre-TLC (PE/EA=2/1) to give the product as a white solid (15 mg, yield: 37%). 1H NMR (DMSO-d6) δ 8.82 (d, J=4.4 Hz, 1H), 7.97 (d, J=8.8 Hz, 2H), 7.47-7.38 (m, 4H), 7.31 (dd, J=1.6, 7.2 Hz, 1H), 7.23-7.17 (m, 3H), 7.11 (d, J=8.8 Hz, 2H), 6.77-6.69 (m, 2H), 5.35-5.31 (m, 1H), 2.68 (d, J=4.8 Hz, 3H). MS (ESI) m/e [M+1]+ 417.9.

reactant | N-(2-(3-cyano-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl)phenyl)-2,2,2-trifluoroacetamide | 0.1 mmol, 50 mg | C(#N)C=1C(=NN2C1N=CC=C2C2=C(C=CC=C2)NC(C(F)(F)F)=O)C2=CC=C(C=C2)OC2=CC=CC=C2 | C27H16F3N5O2
reactant | KOH | 0.2 mmol, 11.2 mg | [OH-].[K+]
reactant | CH3I | 0.5 mL | CI | CH3I
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 7-(2-(Methylamino)phenyl)-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 15 mg, yield: 37% | CNC1=C(C=CC=C1)C1=CC=NC=2N1N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C26H19N5O
